Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / IV Dye, Iodine Containing Contrast Media / aspirin 
/ metronidazole / eggplant
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
TIPS + embolization
 
History of Present Illness:
___ year old woman with HCV/EtOH cirrhosis c/b ascites, edema and
refractory HE s/p ___ of a large IMV shunt due to
worsening hepatic encephalopathy on ___ with ___, stage I
NSCLC in remission s/p CyberKnife ___ who presented to the ED
with confusion. Patient stated that she felt confused this
morning, was normal yesterday and that she has been taking her
lactulose consistently. She stated she had some 'labored
breathing' and low grade fevers at home, as well as diffuse
chronic abdominal pain and mild nausea. She also reported 
feeling
off-balance. Patient denied any chills, cough, congestion,
shortness of breath, dysuria, vision changes, numbness/tingling,
diarrhea. 

Of note, patient was recently discharged on ___ for hepatic
encephalopathy likely triggered by medication non-adherence also
with possible contribution from persistent iliac to IMV
collaterals. At the time, she was evaluated by interventional
radiology and further embolization was deferred for further 
trial
of medical therapy due to concern for worsening portal
hypertensive gastropathy and/or PVT. Her hospital course was 
also
notable for incidentally noted 2cm hepatic lesion meeting
radiographic criteria for ___ for which she will receive
outpatient treatment. 
 
In the ED initial vitals:  T98.7, HR67, BP155/73, RR18, 100% RA 
- Exam notable for:  
GA: Comfortable
Neuro: +asterixis
HEENT: +scleral icterus
Cardiovascular: Normal S1, S2, regular rate and rhythm, no
murmurs/rubs/gallops, 2+ peripheral pulses bilaterally
Pulmonary: Clear to auscultation bilaterally
Abdominal: Soft, tender to palpation right upper, nondistended,
no masses
Extremities: No lower leg edema
Integumentary: No rashes noted

- Labs notable for:  
WBC: 3.6  Hgb: 11.0  Plt: 76 
139|109| 18     AGap=7 
-----------<108 
5.1| 23|0.9  
ALT:  AP: 102 Tbili: 2.4 Alb: 3.2 
AST: 71 LDH:  Dbili:  TProt:  
___:  Lip: 77     
___: 15.9  PTT: 30.5  INR: 1.5  
Lactate:1.5
UA: negative
 
- Imaging notable for: 
Liver US: Cirrhotic liver with patent main portal vein with
hepatopetal flow. Splenomegaly is mild. Small volume ascites.
Status post cholecystectomy.
CXR: No acute findings. 

- Consults:  Hepatology who recommended admission and 
uptitration
of lactulose
- Patient was given:  
___ 14:43 IV CefTRIAXone  2gm 
___ 14:43 PO/NG Lactulose 30 mL  

- ED Course:  bedside US with no tappable pocket thus dx para 
was
not done.

On the floor, patient reports that she woke up yesterday feeling
somewhat off. She states she has been taking her lactulose and
having at least 3 BMs a day at home. Her sleep cycle has been
normal and she has been able to sleep at night with the
hydroxyzine. She endorses mild fever the night prior to 
admission
to ___ but no focal sx. Has periumbilical abdominal pain but
that's chronic. Denies any cough, chest pain, n/v/c, dysuria,
rash, bleeding.

 
Past Medical History:
1.  Hepatitis C.
2.  Cirrhosis (HCV, possibly ETOH), 
3.  Lung cancer (___ Stage I, s/p CyberKnife stereotactic body
radiotherapy ___
4.  ___ esophagus
5.  Depression.
6.  Hypertension
7.  Obesity
8.  S/p abdominoplasty and cholecystectomy
9.  Unspecified colitis, on Mesalamine intermittently, last ___
in ___ normal 
 
Social History:
___
Family History:
- Mother (deceased at ___) - acute MI, emphysema
- Father (deceased at ___) - stroke
- 8 siblings:
   - brother died of GI bleed ___ hepatitis
   - sister died of overdose
   - two other siblings murdered
   - other four siblings alive and healthy
- No FH cancers
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS:  98.2 PO 140 / 81 64 18 99 Ra 
GENERAL: NAD, pleasant and conversant
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, TTP over paraspinal muscles, ROM preserved
HEART: RRR, S1/S2, ___ LUSB systolic murmur, no gallops, or rubs 

LUNGS: CTAB but distant breath sounds, no wheezes, rales,
rhonchi, breathing comfortably without use of accessory muscles  

ABDOMEN: mild TTP in periumbilical area, mildly distended, 
obese,
+BS, no hepatomegaly
EXTREMITIES: no cyanosis, clubbing, trace edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose. Minimal
asterixis, difficulty with ___ backwards 
SKIN: warm and well perfused, no excoriations or lesions, no
rashes, soft raised lesion on R shoulder  

DISCHARGE PHYSICAL EXAM
24 HR Data (last updated ___ @ 330)
    Temp: 98.1 (Tm 98.7), BP: 108/74 (101-151/52-89), HR: 84
(70-85), RR: 18, O2 sat: 99% (94-99), O2 delivery: Ra, Wt: 250.8
lb/113.76 kg  
General: Lying in bed, NAD
Cardiovascular: RRR. Normal S1 and S2. No r/m/g
LUNGS: CTAB. No wheezes, rhonchi or crackles.
ABDOMEN: Obese. Bowel sounds present. Soft and tender to
palpation of RLQ. No rebound. Ecchymoses on RLQ and LLQ.
EXTREMITIES: Warm and well perfused without edema, erythema or
cyanosis.
NEURO: Oriented to person, place, and time. +tremor in left
hand, but no asterixis
SKIN:  Warm and well perfused, no excoriations or lesions, no
rashes, soft raised lesion on R shoulder.
 
Pertinent Results:
ADMISSION LABS
==============
___ 12:40PM BLOOD WBC-3.6* RBC-3.06* Hgb-11.0* Hct-33.5* 
MCV-110* MCH-35.9* MCHC-32.8 RDW-16.8* RDWSD-68.5* Plt Ct-76*
___ 01:01PM BLOOD ___ PTT-30.5 ___
___ 12:40PM BLOOD Glucose-108* UreaN-18 Creat-0.9 Na-139 
K-5.1 Cl-109* HCO3-23 AnGap-7*
___ 12:40PM BLOOD AST-71* AlkPhos-102 TotBili-2.4*
___ 12:40PM BLOOD Lipase-77*
___ 12:51PM BLOOD Lactate-1.5

OTHER INTERVAL RESULTS
======================
___ 12:40PM BLOOD Lipase-77*
___ 05:16AM BLOOD VitB12-1183*
___ 05:16AM BLOOD TSH-3.4

MICRO DATA/REPORTS
==================
___ 2:25 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      GRAM POSITIVE BACTERIA.    10,000-100,000 CFU/mL. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

LIVER OR GALLBLADDER US (SINGLE ORGAN) Study Date of ___  

Hepatic cirrhosis, small volume ascites.  Main portal vein 
patent.  Status 
post cholecystectomy.  No biliary ductal prominence. 

TIPS Study Date of ___ 
Successful right internal jugular access with IMV - iliac 
portosystemic shunt embolization and transjugular intrahepatic 
portosystemic shunt placement with decrease in portosystemic 
pressure gradient. 

DISCHARGE LABS
==============
___ 05:22AM BLOOD WBC-4.1 RBC-2.36* Hgb-8.3* Hct-26.2* 
MCV-111* MCH-35.2* MCHC-31.7* RDW-16.8* RDWSD-68.8* Plt Ct-27*
___ 05:22AM BLOOD ___ PTT-33.7 ___
___ 05:22AM BLOOD Glucose-95 UreaN-18 Creat-0.9 Na-138 
K-4.4 Cl-105 HCO3-24 AnGap-9*
___ 05:22AM BLOOD ALT-29 AST-43* AlkPhos-98 TotBili-1.8*
___ 05:22AM BLOOD Albumin-2.4* Calcium-8.3* Phos-3.0 Mg-2.___ year old woman with HCV/EtOH cirrhosis c/b HCC, ascites, and 
refractory HE s/p ___ of a large IMV shunt due to 
worsening hepatic encephalopathy on ___ with ___, stage I 
NSCLC in remission s/p CyberKnife ___ who presented to the ED 
with confusion, now s/p shunt embolization with TIPS with 
improvement of symptoms.

#Hepatic encephalopathy:
#Shunt embolization with TIPS
Presented with recurrent hepatic encephalopathy s/p ___ 
of IMV shunt due to worsening HE in ___. No evidence of 
infection this admission. CT A/P ___ with persistent 
collaterals but no significant change from ___. After last 
hospitalization, decision was made to hold off on further 
embolization and give medical therapy another
trial due to concern that a BRTO will increase portal pressures 
and worsening her PHG/increase risk for PVT. Given that patient 
re-presented with refractory encephalopathy, ___ performed 
further shunt embolization with small TIPS placement ___. HE 
improved s/p TIPS. New PSG 6 mmHg. Continued lactulose 7x/day 
for minimum ___ BM/day, rifaximin 550 mg BID, and zinc sulfate 
200mg daily. Will require TIPS ultrasound in 1 week ___ am, 
___ Radiology).

# ETOH/HCV CIRRHOSIS c/b HCC:
Childs Class B. MELD 15 on admission, 16 at discharge. c/b 
ascites, HCC, HE s/p IMV-L iliac ___ for refractory 
encephalopathy. Of note, patient was evaluated previously for 
transplant and denied due to BMI 44 and inability to complete 
the evaluation. ___ new finding on last admission ___ 
pending outpatient treatment. Continued pantoprazole daily. 
Restarted lower dose diuretic regimen post-TIPS with furosemide 
20mg daily and spironolactone 50mg daily.

#Abdominal pain
Chronic per patient and unclear etiology; reportedly worse with 
HE episodes. Managed with acetaminophen PRN and low dose 
oxycodone PRN.

#Vertigo
Started on prn meclizine for vertiginous symptoms.

CHRONIC ISSUES:
===============
#Itching:
Continued home hydroxyzine qhs and Cholestyramine. 

# NSCLC stage I: 
Clinically without evidence of lung cancer as recently as 
___. History of a stage I non-small cell lung cancer of 
left upper lobe status post CyberKnife stereotactic body 
radiotherapy completed on ___. 

# Pancytopenia: 
At baseline, likely secondary to cirrhosis. 

# Depression: 
Continued home Paroxetine 40 mg PO daily. 

# History of ___ esophagus: 
Continued home pantoprazole 

#Viral Hepatitis
Hep C s/p cure; Hep B cAb positive, viral load negative.

TRANSITIONAL ISSUES
===================
Discontinued medications: propranolol
Changed medications: diuretics at half dose (20 Lasix/50 
spironolactone). Lactulose frequency increased
New medications: zinc, meclizine prn

[] CT A/P incidentally noted 7mm pancreatic hypodensity c/f IPMN 
for which MRCP recommended for further evaluation. 
[] Plan for MWA of ___ lesion outpatient, will need to be 
scheduled discharge
[] does not need any further propranolol therapy 
[] TIPS US ___
[] outpatient labs to be performed on ___ - at appointment with 
Dr. ___ 
[] Patient's diuretics were restarted at half-dose. Patient's 
weight increasing at discharge. Consider increasing dose at 
follow-up appointment.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cholestyramine 4 gm PO DAILY:PRN itch 
2. Lactulose 30 mL PO QID 
3. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
4. Furosemide 40 mg PO DAILY 
5. HydrOXYzine ___ mg PO QHS:PRN itching 
6. Magnesium Oxide 500 mg PO BID 
7. Ondansetron 4 mg PO BID:PRN Nausea/Vomiting - First Line 
8. Pantoprazole 20 mg PO Q24H 
9. PARoxetine 40 mg PO DAILY 
10. Propranolol 10 mg PO BID 
11. rifAXIMin 550 mg PO BID 
12. Spironolactone 100 mg PO DAILY 
13. vit A-vit C-vit E-zinc-copper ___ unit-mg-unit 
oral DAILY 

 
Discharge Medications:
1.  Meclizine 12.5 mg PO TID:PRN vertigo 
RX *meclizine 12.5 mg 1 tablet(s) by mouth three times a day as 
needed Disp #*30 Tablet Refills:*0 
2.  Zinc Sulfate 220 mg PO DAILY 
RX *zinc sulfate 220 mg (50 mg zinc) 1 capsule(s) by mouth once 
a day Disp #*30 Capsule Refills:*0 
3.  Furosemide 20 mg PO DAILY  
4.  Lactulose 30 mL PO 7X/DAY HE  
5.  Pantoprazole 40 mg PO Q24H  
6.  Spironolactone 50 mg PO DAILY  
7.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
8.  Cholestyramine 4 gm PO DAILY:PRN itch  
9.  HydrOXYzine ___ mg PO QHS:PRN itching  
10.  Magnesium Oxide 500 mg PO BID  
11.  Ondansetron 4 mg PO BID:PRN Nausea/Vomiting - First Line  
12.  PARoxetine 40 mg PO DAILY  
13.  rifAXIMin 550 mg PO BID  
14.  vit A-vit C-vit E-zinc-copper ___ unit-mg-unit 
oral DAILY  
15.Outpatient Lab Work
___.60
Please obtain CBC, chem-10, AST, ALT, ALP, T. bili and fax to 
___ attn: ___, MD

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Hepatic encephalopathy

SECONDARY DIAGNOSES
===================
Alcoholic and hepatitis C cirrhosis complicated by 
hepatocellular carcinoma
Chronic abdominal pain
Pancytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you during your hospitalization 
at ___!

WHY WAS I HOSPITALIZED?
-You were admitted to the hospital because you were feeling 
confused.  
 
WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?  
- You received extra doses of lactulose to improve your 
confusion. You had a procedure performed to block off a blood 
vessel in your gut that was thought to be contributing to your 
confusion. You also had a connection made between veins in your 
liver called a 'TIPS' to decrease the pressure in your blood 
vessels and decrease your risk of bleeding. 
- You improved and were ready to leave the hospital.  

WHAT DO I NEED TO DO WHEN I LEAVE THE HOSPITAL?   
- Take all of your medications as prescribed (listed below)  
- Keep your follow up appointments with your doctors  
- Please come to the ___ Radiology in the ___ on 
___ floor for an ultrasound to make sure that your TIPS is open 
on ___ at 8 am. This first TIPS ultrasound has to be done 
at ___, but the subsequent ones can be done closer to home. 
Please make sure that you have NOTHING TO EAT OR DRINK the 
morning of the test.
- Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds  
- Please stick to a low salt diet and monitor your fluid intake  

- If you experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.  

We wish you the best!  

Sincerely,
Your ___ Care Team  
 
Followup Instructions:
___